US05763437
To a solution of cyclopentyl bromide (2M in diethyl ether, 317 m].) was added dropwise a solution of 2-amino benzonitrile (25.0 g) in dry diethyl ether (400 ml) at 5°-10° C. under stirring for 2 hours. After completion of the addition, the mixture was allowed to warm to room temperature and then stirred at ambient temperature overnight. The reaction mixture was treated with 5N aqueous hydrochloric acid (150 ml) at 10°-20° C. and then stirred at room temperature for additional 30 minutes. To the mixture was added dropwise 5N sodium hydroxide aqueous solution. The resultant mixture was filtered by suction to remove an insoluble inorganic material. The organic layer was separated from the filtrate. The aqueous layer was extracted with ethyl acetate (2×200 ml). The organic layer and the extracts were combined and washed with a brine (100 ml). Dryness over sodium sulfate and evaporation under reduced pressure gave a crude product. The product was subjected by column chromatography on silica gel with a mixture of n-hexane and ethyl acetate (10:1) as an eluent to give |-cyclopentylcarbonylaniline (37.4 g) as a yellow oil.

reactant | cyclopentyl bromide | C1(CCCC1)Br | C5H9Br
reactant | 2-amino benzonitrile | 25.0 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | hydrochloric acid | 5N, 150 ml | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cyclopentylcarbonylaniline | 37.4 g | C1(CCCC1)C(=O)NC1=CC=CC=C1 | C12H15NO
